Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization

 
History of Present Illness:
 ___ with CAD s/p MI ___ with stent x1, 1V CABG (?LAD) in 
___ at ___ who presents with chest pain which 
has been present since her surgery. The patient was in her USOH 
until ___ or ___ when she noted progressive anginal 
symptoms with exertion. She underwent a stress test at ___ on 
___ during which she experienced crushing CP similar to prior 
MI. Cath was performed ___ which showed disease requiring CABG 
(? ___ LAD). She underwent CABG on ___ and the surgery was 
uneventful. She had post-op sternal pain which eventually 
resolved but also noted continued central heaviness which had 
been her anginal pain prior to surgery. She states she made her 
doctors aware of this but was discharged to home. The pain 
persisted over the next couple months intermittently and she was 
seen by her cardiologist in ___. EKG was concerning to him 
so she was sent back into ___ and admitted. She underwent cath 
again which showed that the graft was down and she had 75% 
stenosis at the site of previous stent from ___. No 
intervention was performed and she was discharged to home with 
plan to follow up with cardiologist for further management this 
week. Her pain persisted and she did not wish to return to ___ 
for further care and presented to ___. No fevers or chills. No 
vomiting, diarrhea. The pain is sometimes pleuritic, worse with 
exertion, associated with nausea, diaphoresis, SOB and feels 
similar to her prior MI. She also has sharp pains which radiate 
into her L scapula lasting seconds a/w this. She also reports 
feeling the need to gasp for air throughout the day since her 
surgery. Finally, the patient had noted some lumps in her L 
breast approx. ___ year ago and no biopsies were taken after 
mammogram was somewhat suspicious. SHe was supposed to follow up 
for this but has not and the lumps have become painful and 
larger over the past month. Also endorses 28lb weight loss over 
the last year with decreased appetite. Her dtr was diagnosed 
with breast CA in her ___ while pregnant and she has had 
significant anxiety and has just not felt up to follow up for 
the lumps.  
 
In the ED, initial vitals were 98.5 62 126/84 16 100% RA. Labs 
notable for TroT <.01 x1, CK-MB 2, Cr 0.6, Hct 39. EKG showed SR 
69, NA, NI, diffuse TWF new since ___. CXR showed no acute 
process on my read. She was given ASA 324mg, Plavix 75mg, Ativan 
1mg PO x1. VS at transfer: 97.1 58 121/79 14 100% RA.  

On arrival to the floor, she complains of ___ chest pain, 
similar to prior. Denies SOB or palps.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: Diabetes, Dyslipidemia, Hypertension  
2. CARDIAC HISTORY:  
-CABG: 1V on ___ (unknown details)  
-PERCUTANEOUS CORONARY INTERVENTIONS: stent in ___ (unknown 
details)  
-PACING/ICD:  
3. OTHER PAST MEDICAL HISTORY:  
s/p MI ___  
Breast lumps  
Anxiety  
Bradycardia 

 
Social History:
___
Family History:
Unknown paternal FH; mother with MI in ___, multiple other 
family members on mother's side with early CAD; otherwise 
non-contributory. 
 
Physical Exam:
Admission:
VS: T=97.4 BP=146/83 HR=62 RR=20 O2 sat=97% RA Wt 77.3kg  
GENERAL: Somewhat anxious and tearful at times female in NAD. 
Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple without JVD.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, or xanthomas. Well healed 
sternotomy scar.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
BREAST: appear symmetric bilaterally without obvious gross 
deformities or nipple retraction. Painful to palpation over L 
breast at 7 o'clock, 4 o'clock with some palpable lumps at 4 
o'clock. L axilla tender to palpation but no palpable LAD. R 
axilla wnl.  

Discharge: same as above except:
GEN: NAD, pleasant and interactive
 
Pertinent Results:
Admission:
___ 12:40PM BLOOD WBC-8.4 RBC-4.55 Hgb-13.5 Hct-39.5 MCV-87 
MCH-29.6 MCHC-34.2 RDW-13.1 Plt ___
___ 12:40PM BLOOD Neuts-53.7 ___ Monos-4.5 Eos-5.5* 
Baso-1.1
___ 06:35AM BLOOD ___ PTT-31.2 ___
___ 12:40PM BLOOD Glucose-111* UreaN-13 Creat-0.6 Na-139 
K-4.3 Cl-103 HCO3-26 AnGap-14
___ 06:35AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.0

Enzymes:
___ 12:40PM BLOOD CK(CPK)-55
___ 09:45PM BLOOD CK(CPK)-49
___ 06:35AM BLOOD CK(CPK)-44
___ 12:40PM BLOOD CK-MB-2
___ 12:40PM BLOOD cTropnT-<0.01
___ 09:45PM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:35AM BLOOD CK-MB-2 cTropnT-<0.01

Discharge:
___ 06:40AM BLOOD WBC-7.2 RBC-4.64 Hgb-13.4 Hct-40.0 MCV-86 
MCH-28.9 MCHC-33.5 RDW-13.1 Plt ___
___ 06:40AM BLOOD ___ PTT-31.0 ___
___ 06:40AM BLOOD Glucose-105* UreaN-13 Creat-0.6 Na-140 
K-4.8 Cl-104 HCO3-29 AnGap-12
___ 06:40AM BLOOD Calcium-9.9 Phos-4.0 Mg-2.0

CXR: FINDINGS:  PA and lateral views of the chest were provided. 
 Midline 
sternotomy wires are noted.  Lungs are clear.  No focal 
consolidation, 
effusion, pneumothorax.  Heart and mediastinal contours are 
normal.  Bony 
structures are intact.  No free air below the right 
hemidiaphragm. 
IMPRESSION:  No acute findings in the chest. 

Cardiac Cath:
COMMENTS:      
1. Selective coronary angiography in this right dominant system 
demonstrated no flow limiting lesions. The ___ had no 
angiographically 
apparent disease. The LAD had a 50% proximal in-stent 
restenosis. The Cx 
had no angiographically apparent disease. The RCA had no 
angiographically apparent disease. 
2. Selective arterial conduit angiography revealed a patent LIMA 
to LAD 
which was not noted to be atretic. 
3. Limited resting hemodynamics revealed a central aortic 
pressure of 
111/69 mmHg. 
4. Pressure wire of the proximal LAD 50% ISR was performed. 
Maximal 
hyperemia was achieved using IV adenosine. With maximal 
hyperemia the 
FFR was 0.93. 
5. OCT evaluation of the proximal LAD was performed. OCT 
analysis 
revealed a moderate in-stent restenosis of 50%. 
6. Angiography of the right femoral arteriotomy site was 
performed and 
showed a site which was compatible with percutaneous closure. A 
___ Fr 
Angioseal VIP device was used to obtain closure of the ___ Fr R 
arteriotomy site with good resultant hemostasis. 
  
FINAL DIAGNOSIS:     
1. Coronary arteries have no flow limiting disease. 
2. Patent LIMA to LAD . 
3. Negative FFR evaluation of the proximal LAD re-stenosis. 
 
Brief Hospital Course:
 ___ with strong FH of early CAD, recent tobacco abuse, known MI 
in ___ with stent placement and recent CABG in ___ with 
known failed graft who presents with continued CP similar to 
prior MI since CABG.  
 
# Chest Pain: Patient presented with CP that sounded somewhat 
anginal in nature which had been ongoing since her CABG in 
___ and pain was not worse or different at admission. She 
ruled out for ACS with EKG and enzymes. Records from ___ 
___ revealed CABG in ___ was LIMA to LAD. Prior to that, 
she had had Cypher stent placed to LAD in ___. Her cath in ___ 
had showed 50% ostial LAD lesion with neg remodeling, FFR 0.85, 
LVEF 40%. Her cath in ___ prior to CABG showed no RCA or LCx 
disease, 50 vs 70% (indeterminate) ostial stenosis of LAD with 
aneurysmal dilation around stent, FFR <0.75. MIBI in ___ 
after CABG was neg for ischemia. ___ cath at ___ showed 
40% ostial stenosis, patent stent with negative remodeling in 
___ LAD, LIMA to LAD graft patent but atretic. After careful 
review of all these records, the decision was made to proceed 
with repeat diagnostic cath to perform advanced diagnostic 
techniques on the LAD stensosis, including FFR. Cath showed that 
there would not be a benefit to re-stenting. LIMA-LAD graft was 
patent and functioning. The patient's CP was improved at 
discharge. She was also started on Imdur for anginal pain. She 
will follow up with Dr. ___.
 
# Breast lumps: Patient with known breast lumps that have 
increased in size and are now painful and associated with L 
axillary pain. Also endorses >25lb wt loss unintentionally over 
last year, though also with decreased appetite and signif. life 
stressors. Mammogram and L breast U/S in ___ showed BIRADS-1. 
The importance of her having close follow up for her breast 
center being coordinated by her new PCP was stressed and she 
will obtain previous imaging to bring to first PCP ___. 
Recommend L breast ultrasound and/or MRI as outpatient.
 
# Anxiety: Patient was understandably anxious given CP and 
breast symptoms. She was started on her home Buspar and also 
given standing Ativan while in hospital. She would likely 
benefit from outpt. therapy as well. SW saw pt. during admission 
as well.

TRANSITIONAL ISSUES:
-close follow up with ___ L breast/axillary pain
-cardiology f/u
-outpt. therapy
 
Medications on Admission:
1. Aspirin 325 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Metoprolol Succinate XL 12.5 mg PO DAILY 
Hold for SBP<95, HR<50 
4. Multivitamins 1 TAB PO DAILY 
5. Lorazepam 0.5 mg PO BID:PRN anxiety/insomnia 
Hold for sedation, RR<10 
6. Atorvastatin 60 mg PO HS 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 60 mg PO HS 
3. Clopidogrel 75 mg PO DAILY 
4. Lorazepam 0.5 mg PO BID:PRN anxiety/insomnia 
Hold for sedation, RR<10 
5. Metoprolol Succinate XL 12.5 mg PO DAILY 
Hold for SBP<95, HR<50 
6. Multivitamins 1 TAB PO DAILY 
7. BusPIRone 10 mg PO BID 
8. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest pain
Breast pain
Coronary Artery Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with chest pain that had been 
ongoing for months. After a careful review of your previous 
records, we decided to proceed with cardiac catheterization. We 
performed advanced diagnostics during the cath to determine if 
you would benefit from a stent being placed and it was felt that 
your symptoms would not improve with an intervention based on 
the diagnostics. Your graft was also functioning.

It is very important that you have close follow up for your 
breast pain. Your new PCP should be able to refer you to the 
___ here at your first visit. It would be very helpful 
if you could 

Medication Changes:
START Isosorbide Mononitrate Extended Release (Imdur) 30mg 
tablet once a day

You should continue to take all of your other medications as 
prescribed.
 
Followup Instructions:
___